US07834051B2
2-chloro-4-[(4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile
Using (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpyrrolidin-2-one (495 mg), 4-bromo-2-chloro-3-methylbenzonitrile (500 mg), cesium carbonate (1.05 g), tris(dibenzylideneacetone)dipalladium(0) (99 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (124 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 505 mg, 74%).

reactant | (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpyrrolidin-2-one | 495 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(N[C@H]1C)=O | C11H23NO2Si
reactant | 4-bromo-2-chloro-3-methylbenzonitrile | 500 mg | BrC1=C(C(=C(C#N)C=C1)Cl)C | C8H5BrClN
reactant | cesium carbonate | 1.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 124 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 99 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-4-[(4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N1C(C[C@@H]([C@@H]1C)O[Si](C)(C)C(C)(C)C)=O | C19H27ClN2O2Si
